US07777047B2
ethyl 1-(methoxymethyl)-4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate
A mixture of ethyl 1-(methoxymethyl)-4-methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (7.8 g), methyl iodide (1.7 ml), potassium carbonate (2.9 g) and N,N-dimethylformamide (14 ml) was stirred at room temperature for 18 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was diluted with ethyl acetate. The mixture was washed with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained colorless crystals were washed with diethyl ether-hexane to give the title compound (6.85 g, yield 85%) as colorless needle crystals.

reactant | ethyl 1-(methoxymethyl)-4-methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 7.8 g | COCN1C(=CC2=C(C=CC(=C12)NS(=O)(=O)C=1SC=CC1)C)C(=O)OCC | C18H20N2O5S2
reactant | methyl iodide | 1.7 ml | CI | CH3I
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(methoxymethyl)-4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 6.85 g, yield 85% | COCN1C(=CC2=C(C=CC(=C12)N(S(=O)(=O)C=1SC=CC1)C)C)C(=O)OCC | C19H22N2O5S2
